US05360808
1,6-Dihydro-1-[2-(3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid phenylmethyl ester
To a 10 ml round bottomed flask fitted with a magnetic stirrer bar and nitrogen inlet was added 1,6-dihydro-1-[2-(3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid (0.20 g, 0.70 mmol), dimethylformamide (5.0 ml), potassium hydrogen carbonate (0.175 g, 1.75 mmol), and benzyl bromide (0.082 ml, 0.69 mmol). The resulting suspension was heated in a 50° C. oil bath with stirring. After 2 hours, the solution was concentrated and the residue suspended in dichloromethane-methanol and water. The layers were separated and the organic layer washed with water and the combined aqueous layers back-extracted with dichloromethane (2X). The combined organic layers were dried (Na2SO4). Filtration, concentration, and purification via medium pressure liquid chromotography (silica gel, 5% methanol/dichloromethane) afforded the desired product as a white powder, MP: 154°-155° C.

reactant | 1,6-dihydro-1-[2-(3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid | 0.70 mmol, 0.20 g | N1=CC(=CC=C1)C(=O)NCCN1C=C(C=CC1=O)C(=O)O | C14H13N3O4
reactant | potassium hydrogen carbonate | 1.75 mmol, 0.175 g | C(O)([O-])=O.[K+]
reactant | benzyl bromide | 0.69 mmol, 0.082 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | 1,6-Dihydro-1-[2-(3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid phenylmethyl ester | C1(=CC=CC=C1)COC(=O)C1=CN(C(C=C1)=O)CCNC(=O)C=1C=NC=CC1 | C21H19N3O4
